US06221884B1
N-(2-chloropyridin-3-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide
Beginning with 7.4 mg (0.029 mMol) 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid and 2-chloro-3-aminopyridine, 1.2 mg (9%) of the title compound were recovered.

reactant | 3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxylic acid | 0.029 mMol, 7.4 mg | CN(C1CCC=2NC3=CC=C(C=C3C2C1)C(=O)O)C | C15H18N2O2
reactant | 2-chloro-3-aminopyridine | ClC1=NC=CC=C1N | C5H5ClN2
product | N-(2-chloropyridin-3-yl)-3-dimethylamino-1,2,3,4-tetrahydro-9H-carbazole-6-carboxamide | 1.2 mg, 9% | ClC1=NC=CC=C1NC(=O)C=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H21ClN4O
